US08492582B2
4-(Dimethylamino)pyridine (63 mg) and 2-(acetamido)-4-bromo-5-methoxybenzoic acid (0.49 g) were added to a tetrahydrofuran (1.5 mL) solution of di-tert-butyl dicarbonate (0.75 g) at room temperature, followed by stirring at the same temperature for 4 hours and 15 minutes. Tetrahydrofuran (2 mL) was added to the reaction mixture at room temperature, followed by stirring at the same temperature for 3 days. (Di-tert-butyl)dicarbonate (0.37 g) was added to the reaction mixture at room temperature, followed by stirring at the same temperature for one day. The solvent was evaporated under reduced pressure, and ethyl acetate and a saturated aqueous solution of sodium bicarbonate were added to the residue. The organic layer was separated, washed with a 10% aqueous solution of citric acid and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Hexane and diisopropyl ether were added to the obtained residue, and the solid substance was collected by filtration to obtain 0.40 g of 7-bromo-6-methoxy-2-methyl-4H-3,1-benzoxazin-4-one as a brown solid.

reactant | 2-(acetamido)-4-bromo-5-methoxybenzoic acid | 0.49 g | C(C)(=O)NC1=C(C(=O)O)C=C(C(=C1)Br)OC | C10H10BrNO4
reactant | di-tert-butyl dicarbonate | 0.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (Di-tert-butyl)dicarbonate | 0.37 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(Dimethylamino)pyridine | 63 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 7-bromo-6-methoxy-2-methyl-4H-3,1-benzoxazin-4-one | 0.40 g | BrC1=CC2=C(C(OC(=N2)C)=O)C=C1OC | C10H8BrNO3
